US05952382
Following the procedure of Example 13(a), but reacting 4.82 g (8.86 mmol) of methyl 4-[7-(1-adamantyl)-6-tri-fluoromethylsulfonyloxy-2-naphthyl]benzoate with 3.90 ml (13.3 mmol) of vinyltributyltin, 805 mg (21.5%) of methyl 4-[7-(1-adamantyl)-6-vinyl-2-naphthyl]benzoate were obtained, which compound had a melting point of 221°-2° C.

reactant | methyl 4-[7-(1-adamantyl)-6-tri-fluoromethylsulfonyloxy-2-naphthyl]benzoate | 8.86 mmol, 4.82 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)OC)C=C2)OS(=O)(=O)C(F)(F)F | C29H27F3O5S
reactant | vinyltributyltin | 13.3 mmol, 3.90 ml | C(=C)[Sn](CCCC)(CCCC)CCCC
product | methyl 4-[7-(1-adamantyl)-6-vinyl-2-naphthyl]benzoate | 805 mg, 21.5% | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)OC)C=C2)C=C | C30H30O2
